US06232305B1
Methyl (2S,5R,6R)-6-benzyloxycarbonylamino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo [3,2,0] heptane-2-carboxylate (364 mg, 1 mmol) was hydrogenated with about 1.5 g of 10% palladium on activated carbon in 25 ml of ethyl acetate at 50 psi hydrogen pressure at room temperature for 10 hrs. After removal of catalyst by filtration, deprotected methyl (2S,5R,6R)-6-amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo [3,2,0] heptane-2-carboxylate in ethyl acetate was obtained.

reactant | Methyl (2S,5R,6R)-6-benzyloxycarbonylamino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo [3,2,0] heptane-2-carboxylate | 1 mmol, 364 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@H]2SC([C@@H](N2C1=O)C(=O)OC)(C)C | C17H20N2O5S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | about 1.5 g | [Pd] | Pd
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | methyl (2S,5R,6R)-6-amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo [3,2,0] heptane-2-carboxylate | N[C@H]1[C@H]2SC([C@@H](N2C1=O)C(=O)OC)(C)C | C9H14N2O3S
